US07820821B2
4-Amino-3-nitrobenzoic acid (27 mmol) was coupled with 6-aminoindazole (30 mmol) using HBTU (30 mmol) in dry DMF as the solvent employing the general procedure D to afford 4-amino-N-(1H-indazol-6-yl)-3-nitrobenzamide which was used for further transformation without further purification.

reactant | 4-Amino-3-nitrobenzoic acid | 27 mmol | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | 6-aminoindazole | 30 mmol | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | HBTU | 30 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-amino-N-(1H-indazol-6-yl)-3-nitrobenzamide | NC1=C(C=C(C(=O)NC2=CC=C3C=NNC3=C2)C=C1)[N+](=O)[O-] | C14H11N5O3
